US08497368B2
(E)-2-(1-(1-((7-Fluoroquinolin-6-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide (Example 72)
To a solution of 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone (30.0 mg, 0.09 mmol) in MeOH (10 mL), was added hydrazinecarboxamide hydrochloride (31.0 mg, 0.28 mmol). The mixture was heated at 45° C. and stirred overnight. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography with gradient (DCM:MeOH=10:1) to give the title compound as a white solid (25.0 mg, 67%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.91 (s, 1H), 9.85 (s, 1H), 8.93 (dd, 1H), 8.42 (d, 1H), 8.185 (d, 1H), 7.83 (d, 1H), 7.54 (dd, 1H), 6.20 (s, 2H), 2.28 (s, 3H). LCMS (method A): [MH]+=380, tR=1.98 min.

reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl]-ethanone | 0.09 mmol, 30.0 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H11FN6O
reactant | hydrazinecarboxamide hydrochloride | 0.28 mmol, 31.0 mg | Cl.N(N)C(=O)N
solvent | MeOH | 10 mL | CO | CH4O
product | (E)-2-(1-(1-((7-Fluoroquinolin-6-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide | 25.0 mg, 67% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC=2C1=NC(=CN2)\C(\C)=N\NC(=O)N | C17H14FN9O
